US04959361
1-[3-[6-(2-Chlorophenyl)-1-methyl-4H-[1,2,4]triazolo[4,3-a]-[1,4]benzodiazepin-8-yl]-2-propynyl]-1H-indole-2,3-dione
This compound was prepared by reacting 6-(2-chlorophenyl)-8-iodo-1-methyl-4H-[1,2,4]triazolo[4,3-a][1,4]benzodiazepine with 1-(2-propynyl)-1H-indole-2,3-dione [ref. A. Lindquist, p. Lagerstrom and R. Dahlbom, Acta Pharm. Suecica 9, 99 (1972)] as described in Example 9. The crude product was purified by chromatography over 40 fold amount of silica gel using 5% (V/V) of ethanol in methylene chloride. Crystallization from ethyl acetate qave yellow crystals of 1-[3-[6-(2-chlorophenyl)-1-methyl-4H-[1,2,4]triazolo[4,3-a][1,4]benzodiazepin-8-yl]-2-propynyl]-1H-indole 2,3-dione with m.p. 210°-212° C. These crystals contained according to microanalysis and pmr-spectrum 0.25 molar amounts of ethyl acetate.

reactant | 6-(2-chlorophenyl)-8-iodo-1-methyl-4H-[1,2,4]triazolo[4,3-a][1,4]benzodiazepine | ClC1=C(C=CC=C1)C1=NCC=2N(C3=C1C=C(C=C3)I)C(=NN2)C | C17H12ClIN4
reactant | 1-(2-propynyl)-1H-indole-2,3-dione | C(C#C)N1C(C(C2=CC=CC=C12)=O)=O | C11H7NO2
product | 1-[3-[6-(2-Chlorophenyl)-1-methyl-4H-[1,2,4]triazolo[4,3-a]-[1,4]benzodiazepin-8-yl]-2-propynyl]-1H-indole-2,3-dione | ClC1=C(C=CC=C1)C1=NCC=2N(C3=C1C=C(C=C3)C#CCN3C(C(C1=CC=CC=C31)=O)=O)C(=NN2)C | C28H18ClN5O2
